US04255575
A solution of 10.9 g (0.04 mol) of methyl 5-(2-bromoacetyl)-2-hydroxybenzoate in 100 ml of dry tetrahydrofuran is added dropwise over 4 hours to a stirred solution of 7.1 g (0.04 mol) of 1-(2-methylphenyl)piperazine and 4.0 g (0.04 mol) of triethylamine in 75 ml of tetrahydrofuran at room temperature. Stirring is continued for 2-12 hours or until the theoretical amount (7.3 g) of triethylamine hydrobromide precipitates. The precipitates is removed by filtration and the filtrate is evaporated to dryness. Addition of 2 equivalents of methanolic HCl and precipitation by addition of ethyl ether at room temperature affords the crude methyl 2-hydroxy-5-[2-[4-(2-methylphenyl)-1-piperazinyl]acetyl]benzoate dihydrochloride (9.4 g). Attempts to purify this product by recrystallization frequently led to decomposition and were subsequently avoided.

reactant | methyl 5-(2-bromoacetyl)-2-hydroxybenzoate | 0.04 mol, 10.9 g | BrCC(=O)C=1C=CC(=C(C(=O)OC)C1)O | C10H9BrO4
reactant | 1-(2-methylphenyl)piperazine | 0.04 mol, 7.1 g | CC1=C(C=CC=C1)N1CCNCC1 | C11H16N2
reactant | triethylamine | 0.04 mol, 4.0 g | C(C)N(CC)CC | C6H15N
reactant | triethylamine hydrobromide | 7.3 g | Br.C(C)N(CC)CC
reactant | HCl | 2 equivalents | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
product | methyl 2-hydroxy-5-[2-[4-(2-methylphenyl)-1-piperazinyl]acetyl]benzoate dihydrochloride | 9.4 g | Cl.Cl.OC1=C(C(=O)OC)C=C(C=C1)C(CN1CCN(CC1)C1=C(C=CC=C1)C)=O | InChI=1S/C21H24N2O4.2ClH/c1-15-5-3-4-6-18(15)23-11-9-22(10-12-23)14-20(25)16-7-8-19(24)17(13-16)21(26)27-2;;/h3-8,13,24H,9-12,14H2,1-2H3;2*1H
